US07608639B2
3-{2-Methyl-4-[3-methyl-5-(2-pyridin-3-yl-4-trifluoromethyl-phenoxy)-phenoxy]-phenyl}-propionic acid ethyl ester
A mixture of 3-{4-[3-(2-bromo-4-trifluoromethyl-phenoxy)-5-methyl-phenoxy]-2-methyl-phenyl}-propionic acid ethyl ester (0.112 g, 0.209 mmol), pyridine-3-boronic acid (0.077 g, 0.626 mmol), and cesium fluoride (0.111 g, 0.731 mmol) in dry ACN (7 mL) is purged with N2 and then treated with 1,1′-bis(diphenylphophino)-ferrocene palladium (II) chloride complex with DCM (0.031 g, 0.042 mmol). The mixture is heated to 100° C. and stirred for 5 hours under N2. The reaction is cooled, and the crude mixture is absorbed on silica gel and purified by flash chromatography using 2/1 hexanes/ethyl acetate to afford 0.089 g (79%) of the title compound. Rf=0.33 (1/1 hexanes/EtOAc). 1H NMR (400 MHz, CDCl3); MS (ES+) m/z mass calculated for C31H28O4NF3 535, found 536 (M+1, 100%).

reactant | 3-{4-[3-(2-bromo-4-trifluoromethyl-phenoxy)-5-methyl-phenoxy]-2-methyl-phenyl}-propionic acid ethyl ester | 0.209 mmol, 0.112 g | C(C)OC(CCC1=C(C=C(C=C1)OC1=CC(=CC(=C1)C)OC1=C(C=C(C=C1)C(F)(F)F)Br)C)=O | C26H24BrF3O4
reactant | pyridine-3-boronic acid | 0.626 mmol, 0.077 g | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | cesium fluoride | 0.731 mmol, 0.111 g | [F-].[Cs+]
reactant | DCM | 0.042 mmol, 0.031 g | C(Cl)Cl | CH2Cl2
solvent | ACN | 7 mL | C(C)#N | C2H3N
product | 3-{2-Methyl-4-[3-methyl-5-(2-pyridin-3-yl-4-trifluoromethyl-phenoxy)-phenoxy]-phenyl}-propionic acid ethyl ester | 0.089 g, 79% | C(C)OC(CCC1=C(C=C(C=C1)OC1=CC(=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)C=1C=NC=CC1)C)C)=O | C31H28F3NO4
